US08426587B2
(E)-4-(4-Amino-2-fluorobut-2-enyloxy)-3-chloro-N-cyclohexyl-benzamide hydrochloride was synthesized from (E)-tert-butyl 3-fluoro-4-bromobut-2-enylcarbamate and 4-hydroxy-3-chloro-N-cyclohexylbenzamide.

reactant | (E)-tert-butyl 3-fluoro-4-bromobut-2-enylcarbamate | F/C(=C/CNC(OC(C)(C)C)=O)/CBr | C9H15BrFNO2
reactant | 4-hydroxy-3-chloro-N-cyclohexylbenzamide | OC1=C(C=C(C(=O)NC2CCCCC2)C=C1)Cl | C13H16ClNO2
product | (E)-4-(4-Amino-2-fluorobut-2-enyloxy)-3-chloro-N-cyclohexyl-benzamide hydrochloride | Cl.NC/C=C(\COC1=C(C=C(C(=O)NC2CCCCC2)C=C1)Cl)/F | InChI=1S/C17H22ClFN2O2.ClH/c18-15-10-12(17(22)21-14-4-2-1-3-5-14)6-7-16(15)23-11-13(19)8-9-20;/h6-8,10,14H,1-5,9,11,20H2,(H,21,22);1H/b13-8+;
